Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization - ___

 
History of Present Illness:
___ with history of HTN presenting with chest pain.

She has a strong FH of HTN (mother, sister, and son) and was
diagnosed with early HTN in ___ (SBPs at that time in 140s)
however declined treatment at that time because she was feeling
well. BPs in early ___ were normal. 

She then saw her PCP ___ ___ for 3 weeks of intermittent 
chest
pain and dyspnea, as well as a soft neck mass on the L side of
her neck which she says comes and goes. PCP started lisinopril
5mg, ordered exercise EKG stress test, and US of neck (no mass
found). 

EKG stress test was abnormal (downsloping STD in inferolateral
leads) and recommendation was for stress echo. However, BP prior
to stress test was 228/110 so stress test was canceled and she
was sent to ___ and subsequently to the ED. She had L sided chest
pain at the time, and a general "fuzziness". She was given full
dose aspirin and SL NTG in office, which resolved symptoms.
States yesterday she experienced nausea, no vomiting. 

In general states she has experienced SOB when climbing stairs
for the last week, but denies prolonged history of cardiac
symptoms. States she has had the sensation of something "stuck 
in
her throat" for ~2 weeks, attributes to acid reflux, but denies
correlation with food intake. She does not think she has had
chest pain in the absence of hypertension. She has chronic HAs
which have not been worsening recently. Denies vision changes,
other concerning neurologic symptoms.

Her outpatient BP trend is:
 ___ 130/80
 ___ 130/82
 ___ 148/84
 ___ 142/82
 ___ 132/86
 ___ 126/72
 ___ 166/80
 ___ 175/83
 
In the ED, initial plan was for obs with stress echo, however 
her
SBP was ~200 at the time, so this was deferred. Subsequently,
decision was made to admit for possible cath. On the floor, she 
currently feels well. She denies any chest pain. 

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- HTN 

2. CARDIAC HISTORY  
- No known CAD

3. OTHER PAST MEDICAL HISTORY  
GERD

 
Social History:
___
Family History:
Aunt died of MI at age ___. Mother with HTN.
 
Physical Exam:
ADMISSION:
VITALS:  reviewed in eflowsheets
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple, JVP flat
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills,
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE:
 Vitals: ___ 0749 Temp: 97.5 PO BP: 153/84 L Lying HR: 73 
RR: 16 O2
sat: 97% O2 delivery: Ra  
 General:  Alert and oriented, NAD
 HEENT: NC/AT. EOMI
 Lungs: CTAB
 CV: RRR, Normal S1 and S2. No murmurs, rubs, or gallops
 Abdomen: NT/ND, BS+
 Ext: Warm and dry
 
Pertinent Results:
___ 07:43PM   cTropnT-<0.01
___ 07:43PM   CHOLEST-242*
___ 07:43PM   TRIGLYCER-69 HDL CHOL-94 CHOL/HDL-2.6 
LDL(CALC)-134*
___ 03:55PM   GLUCOSE-90 UREA N-10 CREAT-0.6 SODIUM-140 
POTASSIUM-4.3 CHLORIDE-104 TOTAL CO2-24 ANION GAP-12
___ 03:55PM   estGFR-Using this
___ 03:55PM   cTropnT-<0.01
___ 03:55PM URINE  HOURS-RANDOM
___ 03:55PM URINE  UCG-NEGATIVE
___ 03:55PM   WBC-8.5 RBC-4.79 HGB-12.8 HCT-40.2 MCV-84 
MCH-26.7 MCHC-31.8* RDW-18.8* RDWSD-58.4*
___ 03:55PM   NEUTS-62.1 ___ MONOS-7.1 EOS-1.2 
BASOS-0.7 IM ___ AbsNeut-5.26 AbsLymp-2.39 AbsMono-0.60 
AbsEos-0.10 AbsBaso-0.06
___ 03:55PM   PLT COUNT-292
___ 03:55PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:55PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG

Renal US ___:

FINDINGS:  
The right kidney measures 11.3 cm. The left kidney measures 11.8 
cm. There is no hydronephrosis, stones, or masses bilaterally.  
Normal cortical 
echogenicity and corticomedullary differentiation are seen 
bilaterally. 
  
Renal Doppler: Intrarenal arteries show normal waveforms with 
sharp systolic peaks and continuous antegrade diastolic flow. 
The resistive indices of the right intra renal arteries range 
from 0.69 to 0.76.  The resistive indices on the left range from 
0.63 to 0.73.  Bilaterally, the main renal arteries are patent 
with normal waveforms. The peak systolic velocity on the right 
is 152 centimeters/second. The peak systolic velocity on the 
left is 95.3 centimeters/second. Main renal veins are patent 
bilaterally with normal waveforms. 
  
The bladder is moderately well distended and normal in 
appearance. 
  
IMPRESSION:  
Normal renal ultrasound.  No evidence of renal artery stenosis. 

Cardiac Catheterization ___:
Conclusion
-No angiographically significant coronary artery disease. Left 
main small in caliber but this is
most likely a normal variant and does not appear hemodynamically 
significant.
Recommendations
-Further management as per primary cardiology team.
 
Brief Hospital Course:
___ year old woman with HTN, FH of early CAD, presented with 
hypertensive to 200s/100s and chest discomfort. EKG stress test 
had showed ischemic changes, and she was planned for outpatient 
stress echo for further evaluation, however this was deferred 
due to severe hypertension. Biomarkers were negative and EKG was 
normal, however given her FH of early CAD, decision was made to 
pursue cardiac cath. This showed no coronary disease. She was 
started on chlorthalidone 25mg and amlodipine 5mg for BP 
control, in addition to her previously prescribed lisinopril, 
which was uptitrated to 10mg. She underwent renal duplex for 
work-up of possible secondary hypertension, and did not have 
evidence of renal artery stenosis or fibromuscular dysplasia. 
TSH was checked and was normal. Remainder of work-up for 
secondary HTN can be pursued as an outpatient. She was 
discharged with PCP and cardiology ___.

#Hypertensive emergency: BPs to 220s/110s as outpatient on 
lisinopril 5mg. Improved BP control with addition of 
chlorthalidone and amlodipine. Lisinopril held prior to cath, 
restarted at discharge at 5mg daily.

#Chest pain: Presumptively due to hypertensive emergency. Cath 
showed no CAD. Symptoms resolved with BP control.

#Hyperlipidemia: Noted to have LDL 134. Started on rosuvastatin 
40mg daily.

TRANSITIONAL ISSUES:
-Check renin/aldosterone ratio to evaluate for 
hyperaldosteronism
-Patient to have ___ with cardiology for further 
medication titration

NEW medications:
-Chlorthalidone 25mg daily
-Amlodipine 5mg daily
-Rosuvastatin 40mg daily

STOPPED medications:
-Aspirin 81mg
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Lisinopril 5 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*3 
2.  Chlorthalidone 25 mg PO DAILY 
RX *chlorthalidone 25 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*3 
3.  Rosuvastatin Calcium 40 mg PO QPM 
RX *rosuvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*3 
4.  Lisinopril 5 mg PO DAILY  
5.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Hypertensive emergency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 ================================================  
 DISCHARGE WORKSHEET TEMPLATE  
 ================================================  
 Dear Ms. ___,  

 It was a pleasure caring for you at ___.  

 WHY WAS I IN THE HOSPITAL?  
 ==========================  
 - You were admitted because you had chest pain and high blood 
pressure

 WHAT HAPPENED IN THE HOSPITAL?  
 ==============================  
  - You underwent a cardiac catheterization which showed no 
significant disease in your coronary arteries
  - You were started on chlorthalidone and amlodipine for blood 
pressure control, in addition to the lisinopril you were already 
taking
 
 WHAT SHOULD I DO WHEN I GO HOME?  
 ================================  
  - Please be sure to take all of you blood pressure medications 
as prescribed
  - If possible, check your blood pressure occasionally at home 
to ensure adequate control

 Thank you for allowing us to be involved in your care, we wish 
you all the best!  
 Your ___ Healthcare Team  
 

 
Followup Instructions:
___